US06949577B2
(±)-2-Methoxy-1-methylethyl 4-methylbenzenesulfonate
A solution of 1-methoxy-2-propanol in dichloromethane (2.3 g, 25.5 mmol) (25 ml) and pyridine (5 ml) was cooled to between −5 and 0° C. 4-Methylbenzenesulfonyl chloride (5.35 g, 28.1 mmol) was added dropwise and the mixture was stirred at 0° C. for 15 minutes. The mixture was then stirred at room temperature for 18 hours. Ice was added and the mixture was stirred for 1 hour. The organic phase was separated, washed with 10% aqueous sulfuric acid (4×) and water (1×), and then dried (MgSO4) and filtered. The filtrate was purified by column chromatography on silica gel eluting with dichloromethane. The solution obtained was dried (MgSO4), filtered, and concentrated under reduced pressure to afford the title compound as a colorless oil, 4.3 g, 69% yield.

reactant | 1-methoxy-2-propanol | COCC(C)O | C4H10O2
reactant | dichloromethane | 25.5 mmol, 25 ml, 2.3 g | ClCCl | CH2Cl2
reactant | 4-Methylbenzenesulfonyl chloride | 28.1 mmol, 5.35 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (±)-2-Methoxy-1-methylethyl 4-methylbenzenesulfonate | 69% yield | CC1=CC=C(C=C1)S(=O)(=O)OC(COC)C | C11H16O4S
